US07786132B2
(i) (4-Fluorophenyl)(thiazol-5-yl)methanol
A solution of 2-(trimethylsilyl)thiazole (6.12 g, 38.9 mmol) in THF (80 mL) was cooled to −78° C. and treated with a dropwise addition of nBuLi (2.5 M in hexanes, 15.6 mL, 39.0 mmol). The reaction mixture was stirred at −78° C. for 1 h before 4-fluorobenzaldehyde (4.59 mL, 42.8 mmol) was added dropwise. The stirred suspension was allowed to warm gradually to room temperature over 16 h, then treated with 100 mL of saturated aqueous ammonium chloride and 100 mL of EtOAc. The organic layer was washed with water and brine, dried over Na2SO4, and concentrated. The residue was purified by flash chromatography, eluting with a gradient of 10-50% EtOAc/hexanes to afford the product as a white solid (4.09 g, 19.5 mmol, 50% yield). MS (M+H)+ 210.

reactant | 2-(trimethylsilyl)thiazole | 38.9 mmol, 6.12 g | C[Si](C=1SC=CN1)(C)C | C6H11NSSi
reactant | nBuLi | 39.0 mmol, 2.5 M, 15.6 mL | [Li]CCCC
reactant | 4-fluorobenzaldehyde | 42.8 mmol, 4.59 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (4-Fluorophenyl)(thiazol-5-yl)methanol | 19.5 mmol, 4.09 g, 50% yield | FC1=CC=C(C=C1)C(O)C1=CN=CS1 | C10H8FNOS
